US08975254B2
3-acetyl-N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)-3-hydroxypropyl)-1H-pyrazole-5-carboxamide was prepared using the method of Example 34(d) starting from 3-acetyl-1H-pyrazole-5-carboxylic acid (84 mg, 0.542 mmol) and 4-(1-(1-amino-3-hydroxypropan-2-yl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (125 mg, 0.452 mmol). The product was triturated using diethyl ether and acetonitrile, respectively. Yield 6.49%. 1H-NMR (400 MHz; MeOD): δ 2.51 (s, 3H), 3.88 (m, 2H), 3.97 (dd, 1H), 4.03 (dd, 1H), 4.65 (m, 1H), 6.77 (d, 1H), 7.21 (s, 1H), 7.75 (d, 1H), 7.79 (d, 1H), 7.91 (dd, 1H), 8.05 (d, 1H).

reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 0.542 mmol, 84 mg | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
reactant | 4-(1-(1-amino-3-hydroxypropan-2-yl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.452 mmol, 125 mg | NCC(CO)N1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl | C13H13ClN4O
product | 3-acetyl-N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)-3-hydroxypropyl)-1H-pyrazole-5-carboxamide | Yield 6.49% | C(C)(=O)C1=NNC(=C1)C(=O)NCC(CO)N1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl | C19H17ClN6O3
